US05710158
A solution of 1.33 g (4.01 mmol) of N-methylsulfonyl-3-trimethylstannylindole, 750 mg (3.34 mmol) of 4-chloro-6,7-dimethoxyquinazoline and 0.19 g (5 mol % 0.16 mmol) of Pd (PPh3)4 in 10 ml of dry dimethylformamide is flushed thoroughly with nitrogen and heated to 90° C. for 12 hours. The reaction mixture is diluted with methylene chloride washed with 10% ammonium hydroxide and stirred vigorously and then washed with water and the combined organics are washed with brine (75 mL), dried (MgSO4) and evaporated to dryness. Recrystallized from ethyl acetate yields 4-(1-methylsulphonylindol-3-yl)-6,7-dimethoxyquinazoline (m.p. >220° C.).

reactant | N-methylsulfonyl-3-trimethylstannylindole | 4.01 mmol, 1.33 g | CS(=O)(=O)N1C=C(C2=CC=CC=C12)[Sn](C)(C)C
reactant | 4-chloro-6,7-dimethoxyquinazoline | 3.34 mmol, 750 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | Pd (PPh3)4 | 0.16 mmol, 0.19 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(1-methylsulphonylindol-3-yl)-6,7-dimethoxyquinazoline | CS(=O)(=O)N1C=C(C2=CC=CC=C12)C1=NC=NC2=CC(=C(C=C12)OC)OC | C19H17N3O4S
